US07718683B2
A 10 mL scintillation vial was charged with 4-(4-tert-butyl-benzenesulfonylamino)-3-(5-ethyl-4-methyl-4H-[1,2,4]triazol-3-yl)-benzoic acid methyl ester (20 mg, 0.044 mmol) and 30% NH3 in H2O (1.5 mL). The reaction was heated to 60° C. and stirred overnight. The following day, the volatiles were removed in vacuo to about 200 μL at which point the solution was purified by preparative TLC to afford 4-(4-tert-butyl-benzenesulfonylamino)-3-(5-ethyl-4-methyl-4H-[1,2,4]triazol-3-yl)-benzamide as a colorless oil: MS (ES) M+H expected 442.2, found 442.4.

reactant | 4-(4-tert-butyl-benzenesulfonylamino)-3-(5-ethyl-4-methyl-4H-[1,2,4]triazol-3-yl)-benzoic acid methyl ester | 0.044 mmol, 20 mg | COC(C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C1=NN=C(N1C)CC)=O | C23H28N4O4S
reactant | NH3 | N | H3N
solvent | H2O | 1.5 mL | O | H2O
product | 4-(4-tert-butyl-benzenesulfonylamino)-3-(5-ethyl-4-methyl-4H-[1,2,4]triazol-3-yl)-benzamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=O)N)C=C1)C1=NN=C(N1C)CC | C22H27N5O3S
